data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_546495_1,[C:1]12([N:3]([H:8])[H:9])[C:2](=[C:5]([H:11])[H:12])[C:4]1([H:10])[N:7]=[N:6]2>>[C:1]1([N:3]([H:8])[H:9])=[N:6][N:7]=[C:4]([H:10])[C:2]1=[C:5]([H:11])[H:12],2.687582499991663
MR_236396_1,[C:1]([C:3]([C:4]([C:6]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:9])([H:16])[H:17])=[O:7])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:4](=[C:6]([H:16])[H:17])[O:7][C:5]([C:2]([H:13])([H:14])[H:15])=[O:9])=[O:8])([H:10])([H:11])[H:12],48.833932499979085
MR_490632_1,[C:1](/[N:8]=[C:5](/[C:2]([H:17])([H:18])[H:19])[N:3](/[C:4]([N:6]([H:11])[H:12])=[N:9]\[H:13])[O:7][H:10])([H:14])([H:15])[H:16]>>[C:1]([N:8](/[C:4]([N:6]([H:11])[H:12])=[N:9]\[H:13])/[C:5]([C:2]([H:17])([H:18])[H:19])=[N:3]/[O:7][H:10])([H:14])([H:15])[H:16],42.98374999998231
MR_349992_2,[C:1]([C:3]([N:4]([H:10])[H:11])=[O:7])([O:5][C:2]([H:12])([H:13])[H:14])([O:6][H:8])[H:9]>>[C:1]1([O:6][H:8])([H:9])[C:3]([N:4]([H:10])[H:11])([O:5][C:2]([H:12])([H:13])[H:14])[O:7]1,70.46385749997839
MR_299610_1,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:10])([O:5][N:4]([H:11])[H:12])([O:6][H:8])[O:7][H:9]>>[C:1]([N:4]([H:11])[H:12])([O:5][N:3]([C:2]([H:13])([H:14])[H:15])[H:10])([O:6][H:8])[O:7][H:9],72.30306000000752
MR_160296_0,[C:1]1([C:3]([H:11])([H:12])[H:13])([H:7])/[C:4](=[N:6]/[H:8])[C:2]([H:9])([H:10])[O:5]1>>[C:1]1([C:3]([H:11])([H:12])[H:13])([H:7])[C:2](/[C:4](=[N:6]/[H:8])[H:10])([H:9])[O:5]1,72.8176099999925
MR_639052_2,[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([N:6]([H:13])[H:14])[H:12])([C:5]([C:3]([H:15])([H:16])[H:17])=[O:9])([O:7][H:10])[O:8][H:11]>>[C:1]([C:5]([C:2]([C:4]([H:18])([H:19])[H:20])([N:6]([H:13])[H:14])[H:12])([C:3]([H:15])([H:16])[H:17])[O:9][H:10])(=[O:7])[O:8][H:11],39.14031249998402
MR_592647_2,[C:1](/[C:4]([C:3]([H:16])([H:17])[H:18])=[N:8]/[H:12])([N:5]([H:10])[H:11])([O:6][O:7][C:2]([H:13])([H:14])[H:15])[H:9]>>[C:1]([N:5]([H:10])[H:11])([O:6]/[C:4]([C:3]([H:16])([H:17])[H:18])=[N:8]/[H:12])([O:7][C:2]([H:13])([H:14])[H:15])[H:9],46.33522750000992
MR_344122_0,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:3]([O:4][O:5][H:7])=[N:6]\[H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([O:4]/[C:3]([O:5][H:7])=[N:6]\[H:8])([H:9])[H:10],61.48746999999162
MR_151895_0,[N:1](\[C:3]([C:2]([N:5]([H:12])[H:13])([C:6](=[C:8]([H:17])[H:18])[H:14])[O:9][H:11])=[C:7]([H:15])[H:16])=[N:4]/[H:10]>>[N:1]([C:3]([C:2]([N:5]([H:12])[H:13])=[O:9])=[C:7]([H:15])[H:16])([N:4]([H:10])[H:11])[C:6](=[C:8]([H:17])[H:18])[H:14],58.6260699999751
MR_426320_1,[C:1]([N:3]([C:2]([H:18])([H:19])[H:20])[N:5]([H:13])[H:14])(/[C:7](=[C:4](\[N:6]([H:15])[H:16])[O:9][H:11])[H:17])([O:8][H:10])[H:12]>>[C:1](=[C:7](/[C:4]([N:3]([C:2]([H:18])([H:19])[H:20])[N:5]([H:13])[H:14])([N:6]([H:15])[H:16])[O:9][H:11])[H:17])(\[O:8][H:10])[H:12],50.48676750001505
MR_288329_0,[C:1]1([C:2]([H:12])([H:13])[H:14])([O:6][H:10])[C:5]([C:3]([H:15])([H:16])[H:17])([C:4]([O:7][H:11])=[O:8])[O:9]1>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:5]([C:3]([H:15])([H:16])[H:17])([C:4]([O:7][H:11])=[O:8])[O:9][H:10])=[O:6],43.29310749998598
MR_569015_1,[C:1]([C:2]([N:4]1[C:3]([H:15])([H:16])[C:5]1([O:8][H:12])[O:9][H:11])([H:13])[H:14])([O:6][H:10])=[O:7]>>[C:1]1([O:6][H:10])([O:7][H:11])[C:2]([H:13])([H:14])[N:4]2[C:3]([H:15])([H:16])[C:5]2([O:8][H:12])[O:9]1,46.22666999999865
MR_34930_1,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4](/[C:5]([C:3](=[O:7])[H:10])([O:6][H:8])[H:12])[H:11])[H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4](=[C:5](/[C:3](=[O:7])[H:10])[H:12])[H:11])([O:6][H:8])[H:9],62.2793750000254
MR_397496_0,[C:1](/[C:3](=[C:6]([C:2](\[N:5]([H:12])[H:13])=[N:8]\[N:4]([H:10])[H:11])/[H:14])[O:7][H:9])([H:15])([H:16])[H:17]>>[C:1]([C@:3]1([O:7][H:9])[C:6]([H:14])=[C:2]([N:5]([H:12])[H:13])[N:8]1[N:4]([H:10])[H:11])([H:15])([H:16])[H:17],32.577917500001945
MR_271808_0,[C:1]([C:2](/[C:5]([C:4]([C:3]([H:17])([H:18])[H:19])=[O:9])=[N:8]\[H:12])([H:15])[H:16])([O:7][N:6]([H:10])[H:11])([H:13])[H:14]>>[C:1](=[C:2](/[C:5]([C:4]([C:3]([H:17])([H:18])[H:19])([O:7][N:6]([H:10])[H:11])[O:9][H:16])=[N:8]\[H:12])[H:15])([H:13])[H:14],70.20407249995657
MR_320119_1,[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])(/[C:5](=[C:7](/[C:4]([H:19])([H:20])[H:21])[H:12])[O:8][H:10])[C:6](=[O:9])[H:11]>>[C:1]1([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])[C:5]([C:6](=[O:9])[H:11])([O:8][H:10])[C:7]1([C:4]([H:19])([H:20])[H:21])[H:12],73.18156000000101
MR_521439_1,[C:1]([C:2]([O:8][H:10])=[O:9])([C:4](=[C:3]([N:5]([H:12])[H:13])[N:6]([H:11])[H:14])[N:7]([H:15])[H:16])([H:17])[H:18]>>[C:1]1([H:17])([H:18])[C:2](=[O:9])[C:4]1([C:3]([N:5]([H:12])[H:13])([N:6]([H:11])[H:14])[O:8][H:10])[N:7]([H:15])[H:16],71.71195500000181
MR_625287_1,[C:1](/[C:5](=[C:3](\[N:2]([C:4]([N:7]([H:14])[H:15])=[C:9]([H:21])[H:22])[N:6]([H:12])[H:13])[O:10][H:11])[N:8]([H:16])[H:17])([H:18])([H:19])[H:20]>>[C:1]([C@@:5](/[C:3](=[N:2]/[N:6]([H:12])[H:13])[O:10][H:11])([C:4]([N:7]([H:14])[H:15])=[C:9]([H:21])[H:22])[N:8]([H:16])[H:17])([H:18])([H:19])[H:20],64.0275899999989
